US07253286B2
1-(4-(6-Cyano-7-(piperidin-4-ylmethoxy)quinolin-4-yloxy)phenyl)-3-(thiazol-2-yl)urea
4-(6-Cyano-4-(4-(3-thiazol-2-yl-ureido)-phenoxy)-quinolin-7-yloxymethyl)-piperidine-1-carboxylic acid tert-butyl-ester (240 mg) was deprotected with trifluoroacetic acid in the same manner as Production Example 670-4 to obtain the title compound (220 mg) as a solid.

reactant | 4-(6-Cyano-4-(4-(3-thiazol-2-yl-ureido)-phenoxy)-quinolin-7-yloxymethyl)-piperidine-1-carboxylic acid tert-butyl-ester | 240 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=C(C=C2C(=CC=NC2=C1)OC1=CC=C(C=C1)NC(=O)NC=1SC=CN1)C#N | C31H32N6O5S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 1-(4-(6-Cyano-7-(piperidin-4-ylmethoxy)quinolin-4-yloxy)phenyl)-3-(thiazol-2-yl)urea | 220 mg | C(#N)C=1C=C2C(=CC=NC2=CC1OCC1CCNCC1)OC1=CC=C(C=C1)NC(=O)NC=1SC=CN1 | C26H24N6O3S
